US07951815B2
To a solution of 8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one (400 mg, 1.0 mmol) in 10 mL of DMF there was added sodium hydride (40 mg, 1.5 mmol) at RT and under a blanket of nitrogen. Following stirring over a period of 1 h at RT, 4-fluorobenzyl chloride (160 mg, 1.1 mmol) was slowly added dropwise and the mixture was then heated for 30 min in a microwave oven at 100° C. Following the addition of an aqueous saturated NH4Cl solution (15 mL), the mixture was extracted with ether (3×10 mL), the ethereal phase washed with aqueous saturated NaHCO3 solution (2×10 mL) and the combined organic phases were dried over Na2SO4. Following removal, by distillation, of the solvent, there was obtained the crude product as a yellow oil. Further purification was carried out by column chromatography. The product 1-benzyl-8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one was obtained in a yield of 296 mg (58%).

reactant | 8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | 1.0 mmol, 400 mg | COC1=C(C(=O)N2CCC3(N[C@H](C(N3)=O)CCSC)CC2)C=CC(=C1)OC | C19H27N3O4S
reactant | sodium hydride | 1.5 mmol, 40 mg | [H-].[Na+]
reactant | 4-fluorobenzyl chloride | 1.1 mmol, 160 mg | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=C(C=C(C=C2)OC)OC)=O)CCSC)=O | C26H33N3O4S
